US06384080B1
To a solution of N-[4-(tert-butoxycarbonyl)amino-2-chlorobenzyl]-2-(cyclopentylamino)-5-nitrobenzamide (141 mg) in anhydrous ethyl acetate (2 mL) was added 4N-hydrochloric acid ethyl acetate solution. (4 mL). After stirring for 2 hours at ambient temperature, the mixture was partitioned between 1N-sodium hydroxide solution and chloroform. The separated organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was triturated with diisopropyl ether to give N-(4-amino-2-chlorobenzyl)-2-(cyclopentylamino)-5-nitrobenzamide as yellow powders (102 mg).

reactant | N-[4-(tert-butoxycarbonyl)amino-2-chlorobenzyl]-2-(cyclopentylamino)-5-nitrobenzamide | 141 mg | C(C)(C)(C)OC(=O)NC1=CC(=C(CNC(C2=C(C=CC(=C2)[N+](=O)[O-])NC2CCCC2)=O)C=C1)Cl | C24H29ClN4O5
reactant | hydrochloric acid ethyl acetate | C(C)OC(C)=O.Cl
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | N-(4-amino-2-chlorobenzyl)-2-(cyclopentylamino)-5-nitrobenzamide | 102 mg | NC1=CC(=C(CNC(C2=C(C=CC(=C2)[N+](=O)[O-])NC2CCCC2)=O)C=C1)Cl | C19H21ClN4O3
